US07868014B2
5-Chloro-2-trifluoromethylbenzaldehyde
Dissolve (5-chloro-2-trifluoromethylphenyl)-methanol (347 mg, 1.66 mmol) in dichloromethane (10 mL). Add pyridinium chlorochromate (717 mg, 3.32 mmol) and stir for 2 h. Dilute with diethyl ether and stir for 1 h. Filter and concentrate. Chromatograph on silica gel eluting with 10% ethyl acetate in hexane to give the title compound as a clear oil (285 mg, 82%). 1H NMR (400 MHz, MeOH-d4) 10.33 (s, 1H), 7.90 (s, 1H), 7.69 (d, 1H, J=8.4 Hz), 7.54 (d, 1H, J=8.4 Hz).

reactant | (5-chloro-2-trifluoromethylphenyl)-methanol | 1.66 mmol, 347 mg | ClC=1C=CC(=C(C1)CO)C(F)(F)F | C8H6ClF3O
reactant | pyridinium chlorochromate | 3.32 mmol, 717 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-Chloro-2-trifluoromethylbenzaldehyde | 285 mg, 82% | ClC=1C=CC(=C(C=O)C1)C(F)(F)F | C8H4ClF3O
